2138-07-19 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - plavix d/c
   - no significant events overnight
   Allergies:
   Phenylephrine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-19**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 67 (63 - 78) bpm
   BP: 105/56(67) {98/22(44) - 131/68(84)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    180 mL
                  PO:
                                                                    180 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    930 mL
                                                                    560 mL
   Urine:
                                                                    930 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GENERAL: appears in no apparent distress. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, jvp mildly elevated in a 30% angle
   CARDIAC: rrr, nl s1, faint s2, [**5-12**] ejection systolic murmur in right
   second intercostal space with radiation to neck.
   LUNGS: reduce air entry bilaterally with expiratory wheeze.
   ABDOMEN: soft, non tender, nl bs
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: 1+ dp and pt pulses
   Labs / Radiology
   288 K/uL
   9.0 g/dL
   168 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.4 mEq/L
   29 mg/dL
   102 mEq/L
   138 mEq/L
   26.9 %
   4.5 K/uL
        [image002.jpg]
                             [**2138-7-18**]  07:08 PM
                             [**2138-7-19**]  06:00 AM
   WBC
   5.3
   4.5
   Hct
   28.4
   26.9
   Plt
   342
   288
   Cr
   1.6
   1.5
   TropT
   0.05
   Glucose
   175
   168
   Other labs: PT / PTT / INR:14.4/21.1/1.3, CK / CKMB /
   Troponin-T:61//0.05, ALT / AST:27/22, Alk Phos / T Bili:85/0.6,
   Differential-Neuts:81.4 %, Lymph:12.4 %, Mono:3.9 %, Eos:2.1 %,
   Albumin:3.0 g/dL, LDH:213 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 CHEST PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   83 year old man with complex medical issues presents from nursing
   facility after taking NTG for his chest pain that resulted in
   hypotension that subsequently resolved spontanously. Chest pain
   secondary to unstable angina/NSTEMI vs severe AS or both.
   #) Cardiac: Currently chest pain free. Mildly elevated trop and flat CK
   in setting of CRI. Unlikely active ACS this makes an ACS scenario with
   unstable plaque rupture much less likely. he may have stable coronary
   artery disease with demand ischemia at times.  ECHO called this severe
   as with valve area of 0.8-1.0cm2. however the peak gradient is 39 and
   mean gradient is 20. whether this is secondary to a low output state
   due to his poor lv function vs genuine severe as is unclear at present.
   i think we have several priorities here. 1) optimize medical therapy
   for his cad and cardiac dysfunction. 2) further evaluation of ongoing
   bloody stool and hematuria. 3) further evaluation of his coronary
   anatomy, coronary ischemia and severeity of AS.
   - will need his recent cath report from [**Hospital **] with a view of possible
   repeat cath with right heart study, as study with dobutamine. pending
   on the result will discuss of options of medical therapy vs surgical
   option vs interventional options.
   - discuss case with CT surgery
   - cont statin, lisinopril , metprolol, spironolactone
   - cont lasix 40mg po standing
   - decr ASA to 81
   .
   #) Pulmonary: ?retrocardiac opacity
   - will check PA/Lat
   - will d/c abx and follow along clinically.
   .
   #) GI:pt has no history of endoscopy. per wife he's had blood streak in
   his stool since admission in [**Hospital **] without further eval.
   - serial hct check
   - iv ppi
   - gi consult but doubt they'd be happy to pass endoscopy in the current
   setting. likely will require conservative therapy.
   - in view of his multiple issues will set transfusion criteria to hct
   of less than 30 persistently.
   .
   #) Hematuria:no clot at present. per wife this also started recently.
   no evidence of coagulopathy at present.
   - no indication for 3 way foley.
   - maybe foley trauma related during recent admission.
   - follow conservatively for now.
   - consult urology consult.
   #) Anemia: +guaic stool and hematuria
   - mcv 90. will do anemia eval.
   - type and screen.
   .
   #) CRI:
   - at baseline.
   .
   #) DM:
   - outpatient lantus dose and sliding scale.
   .
   #) Prophylaxis:
   - ppi and pneumoboots.
   .
   #) Full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-7-18**] 06:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 272**].
   I would add the following remarks:
   History
   83 yr old with moderately severe AS, decreased EF 30%, severe CAD with
   recent unsuccessful PCI of totally occluded LAD at St [**Female First Name (un) **], now
   transferred from Rehab with episode of angina treated with NTG and
   resulting in transient hypotension.  No EKG change and no [**Last Name (un) **]
   elevation.  EF 30%, [**Location (un) **] 0.8-1.0.
   No chest pain or SOB today.
   Physical Examination
   absent A2, mod decr in carotid pulse
   Multiple rhonchi, ? retrocardiac density but no frank pneumonia
   Medical Decision Making
   review films from St [**Female First Name (un) **]
   continue med Rx
   hold antibiotics
   decr ASA 81 daily and follow hematuria and OB + stools
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2138-7-19**] 10:17 ------

2138-07-20 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - OSH prior cath [**8-9**]-> LM 20%, LAD 60%;
   - OSH current cath [**2138-6-26**] --> LM clean, LAD TO, LCx 50%, RCA 60%, LAD
   collaterals being filled by RCA
   - Decr ASA to 81mg
   - started PPI [**Hospital1 **]
   - PA/Lat showed possible retrocardiac opacity, but currently pt
   afebrile, and no WBC count - decided to hold off on abx
   - Hct stable at 26.4
   Allergies:
   Phenylephrine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-7-20**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 57 (50 - 67) bpm
   BP: 99/42(56) {99/42(56) - 128/60(77)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                    870 mL
                                                                    150 mL
   PO:
                                                                    870 mL
                                                                    150 mL
   TF:
   IVF:
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  1,795 mL
                                                                    370 mL
   Urine:
                                                                  1,795 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -925 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   GENERAL: appears in no apparent distress. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, jvp mildly elevated
   CARDIAC: rrr, nl s1, faint s2, [**5-12**] ejection systolic murmur in right
   second intercostal space with radiation to neck.
   LUNGS: reduce air entry bilaterally with expiratory wheeze.
   ABDOMEN: soft, non tender, nl bs
   EXTREMITIES: No c/c/e. No femoral bruits.
   PULSES: 1+ dp and pt pulses
   Labs / Radiology
   285 K/uL
   9.3 g/dL
   138 mg/dL
   1.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   34 mg/dL
   103 mEq/L
   140 mEq/L
   28.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2138-7-18**]  07:08 PM
                             [**2138-7-19**]  06:00 AM
                             [**2138-7-19**]  04:16 PM
                             [**2138-7-20**]  04:13 AM
   WBC
   5.3
   4.5
   6.0
   Hct
   28.4
   26.9
   26.4
   28.6
   Plt
   342
   288
   285
   Cr
   1.6
   1.5
   1.7
   1.7
   TropT
   0.05
   0.06
   Glucose
   175
   168
   235
   138
   Other labs: PT / PTT / INR:14.3/24.8/1.2, CK / CKMB /
   Troponin-T:61//0.06, ALT / AST:25/21, Alk Phos / T Bili:89/0.6,
   Differential-Neuts:81.4 %, Lymph:12.4 %, Mono:3.9 %, Eos:2.1 %,
   Albumin:3.0 g/dL, LDH:216 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   83 year old man with complex medical issues presents from nursing
   facility after taking NTG for his chest pain that resulted in
   hypotension that subsequently resolved spontanously. Chest pain
   secondary to unstable angina/NSTEMI vs severe AS or both.
   #) Cardiac: 3VD on recent cath LAD TO, LCx 50%, RCA 60% medical therapy
   vs surgical option vs interventional options. Very possible that severe
   AS contributing to recent CP.
   - discuss case with CT surgery
   - cont statin, lisinopril , metprolol, spironolactone
   - cont lasix 40mg po standing
   - decr ASA to 81
   - recheck EKG
   - avoid NTG with AS.
   # AS
 moderate dz, no delay in carotid upstoke, but loss of A2 . Echo
   called this severe as with valve area of 0.8-1.0cm2. As noted above,
   AVR + CABG may be reasonable.
   - discuss case with cardiac surgery
   - avoid reducing preload
   #) Pulmonary: ?retrocardiac opacity- current PA/Lat shows possible
   retrocardiac opacity, but with no WBC or fevers decided not to treat.
   - continue to hold off on abx and follow along clinically.
   - follow clinically
   .
   #) GI: Wife reports [**Name2 (NI) **] streaked stool. No hx of upper endoscopy.
   Unclear if he is UTD on [**Last Name (un) **] screening. Hct remains stable
   - monitor daily Hct
   - IV PPI [**Hospital1 **]
   - suggest outpt GI follow up
   .
   #) Hematuria: Reportedly began prior to admission. Urine appears tea
   colored with red sediment. Most likely related to foley trauma.
   -c/s urology today.
   .
   #) Anemia: Mild iron deficiency.
   - Begin ferrous sulfate 325mg daily
   - active type and screen.
   .
   #) CRI:
   - at baseline.
   .
   #) DM: BS controlled.
   - cont outpatient lantus dose and sliding scale.
   .
   #) Prophylaxis:
   -          ppi and pneumoboots.
   .
   .
   #) Full code.
   .
   Dispo: Called out to floor
   ------ Protected Section ------
   I agreed with the comprehensive progress note as outlined by Dr.
   [**Last Name (STitle) 9310**] on [**2138-7-20**].   I concur with the documentation of the 24
   hour history.  The physical examination is consistent with my
   examination and the assessment and management describe our plans over
   the next 24 hours.  Mr. [**Known lastname 9311**] is an 83 year old man with a history
   of severe CAD and severe aortic stenosis who was hospitalized for
   cardiogenic shock at [**Hospital3 2180**] Medical Center.  Although he
   declined surgery at that junction and was discharged to Kindren LTAC,
   he redeveloped chest pain prompting admission.  He had an episode of
   pain yesterday and we will consult with him and his family to review
   the current options.  He has not shown evidence of an additional NSTEMI
   event.  We will also obtain the recent angiograms from [**Hospital3 2180**]
   Medical Center.   We will continue all measures as outlined above.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] x30958
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2138-7-20**] 15:25 ------